US05096900
2-[(4-Piperidyl)methyl]-2,3-dihydro-1H-isoindole dihydrochloride
56.6 g (149 mmol) of 2-{[1-(phenylmethyl)-4-piperidyl]methyl}-2,3-dihydro-1H-isoindole dihydrochloride, 300 ml of ethanol, 50 ml of water and 5 g of palladinized charcoal (10% palladium) are introduced into a Parr apparatus and a hydrogenolysis is performed under approximately 0.41 MPa for 9 h.

reactant | 2-{[1-(phenylmethyl)-4-piperidyl]methyl}-2,3-dihydro-1H-isoindole dihydrochloride | 149 mmol, 56.6 g | Cl.Cl.C1(=CC=CC=C1)CN1CCC(CC1)CN1CC2=CC=CC=C2C1
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | charcoal | 5 g | C | CH4
solvent | water | 50 ml | O | H2O
product | 2-[(4-Piperidyl)methyl]-2,3-dihydro-1H-isoindole dihydrochloride | Cl.Cl.N1CCC(CC1)CN1CC2=CC=CC=C2C1 | InChI=1S/C14H20N2.2ClH/c1-2-4-14-11-16(10-13(14)3-1)9-12-5-7-15-8-6-12;;/h1-4,12,15H,5-11H2;2*1H
